US04621092
(c) (±)-1-[[[3-(Benzoylamino)-4-(1H-indol-3-yl)-2-oxobutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester
1-[[[(2-Carboxyethyl)methylamino]carbonyl]-L-proline, phenylmethyl ester (3.2 g., 10 mmole) is taken into 33 ml. of dry tetrahydrofuran with stirring at 5°. Oxalyl chloride (1.05 ml., 12 mmole) is added dropwise followed by 4 drops of dimethylformamide. After 20 minutes the ice bath is removed and after stirring for one hour at room temperature the reaction mixture is concentrated to dryness, taken into 20 ml. of tetrahydrofuran, chilled and added dropwise to 2-phenyl-4-[(1H-indol-3-yl)methyl]-5(4H)-oxazolone (3.0 g., 10.5 mmole) in 16 ml. of dry tetrahydrofuran with stirring in an ice bath. Triethylamine (1.7 ml., 12 mmole) is then added to the reaction mixture. After 15 minutes the ice bath is removed and the reaction is run overnight at room temperature. The triethylamine hydrochloride salt is filtered off and the filtrate is concentrated to dryness, taken into 10.6 ml. of pyridine, 33.3 mg. of 4-dimethylamino pyridine is added, and the mixture is stirred for 3 hours. Acetic acid (10.6 ml.) is added and the reaction is heated for 45 minutes at 100° under an argon atmosphere. The reaction mixture is concentrated to dryness, taken into ethyl acetate, and washed with saturated sodium bicarbonate and dilute hydrochloric acid. The crude product (4.6 g.) is purified on a silica gel column in ethyl acetate: benzene (2:1) to yield 523 mg. of (±)-1-[[[3-(benzoylamino)-4-(1H-indol-3-yl)-2-oxbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester.

reactant | [[(2-Carboxyethyl)methylamino]carbonyl]-L-proline, phenylmethyl ester | 10 mmole, 3.2 g | C(=O)(O)CCN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C | C17H22N2O5
reactant | Oxalyl chloride | 12 mmole, 1.05 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenyl-4-[(1H-indol-3-yl)methyl]-5(4H)-oxazolone | 10.5 mmole, 3.0 g | C1(=CC=CC=C1)C=1OC(C(N1)CC1=CNC2=CC=CC=C12)=O | C18H14N2O2
reactant | Triethylamine | 12 mmole, 1.7 ml | C(C)N(CC)CC | C6H15N
catalyst | dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (±)-1-[[[3-(Benzoylamino)-4-(1H-indol-3-yl)-2-oxobutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester | C(C1=CC=CC=C1)(=O)NC(C(CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)=O)CC1=CNC2=CC=CC=C12 | C33H34N4O5
